US04296237
Pyridine-4-thioamide (1.38 g, 0.01 mole) and 3-bromo-4-oxobutyric acid ethyl ester (3.1 g., 0.015 mole) in ethanol (50 ml) are heated at reflux for six hours. After cooling the solvent is evaporated and the residue is neutralized with sodium bicarbonate solution and then extracted with chloroform (300 ml.). The chloroform solution is washed with water, dried with (MgSO4) and evaporated to yield crude 2-(4-pyridyl)-thiazole-5-acetic acid ethyl ester. Purification is carried out by dissolving in acetone and adding petroleum ether to induce crystallization. When this ester intermediate is treated with methanol solution saturated with ammonia gas (25 ml./g. of ester) for 3 days at room temperature 2-(4-pyridyl)thiazol-5-ylacetamide is obtained after partial evaporation of the methanol. Purification is carried out by recrystallization from ethanol. When the amide is treated according to the procedure in Example 1, there is obtained 3-hydroxy-4-[2-(4-pyridyl)thiazol-5-yl]-3-pyrroline-2,5-dione.

reactant | Pyridine-4-thioamide | 0.01 mole, 1.38 g | N1=CC=C(C=C1)C(N)=S | C6H6N2S
reactant | 3-bromo-4-oxobutyric acid ethyl ester | 0.015 mole, 3.1 g | C(C)OC(CC(C=O)Br)=O | C6H9BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-pyridyl)-thiazole-5-acetic acid ethyl ester | C(C)OC(CC1=CN=C(S1)C1=CC=NC=C1)=O | C12H12N2O2S
